US09216999B2
rac-1-[(3R,4R)-4-Methylpiperidin-3-yl-7-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-h][1,6]naphthyridin-4(7H)-one
rac-1-[(3R,4R)-1-Benzyl-4-methylpiperidin-3-yl]-7-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-h][1,6]naphthyridin-4(7H)-one (98 mg, 0.20 mmol) and 5% palladium-carbon (65 mg) in methanol (2 mL) were stirred at room temperature for 2 hours under a hydrogen atmosphere, then at 40° C. for 5 hours and at room temperature for one day. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure to give the title compound as a pale yellow amorphous (76.8 mg, yield 95%).

reactant | rac-1-[(3R,4R)-1-Benzyl-4-methylpiperidin-3-yl]-7-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-h][1,6]naphthyridin-4(7H)-one | 0.20 mmol, 98 mg | C(C1=CC=CC=C1)N1C[C@@H]([C@@H](CC1)C)N1C=CC(C2=CN=C3C(=C12)C=CN3COCC[Si](C)(C)C)=O | C29H38N4O2Si
solvent | methanol | 2 mL | CO | CH4O
catalyst | palladium-carbon | 65 mg | [C].[Pd]
product | (3R,4R)-4-Methylpiperidin-3-yl-7-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-h][1,6]naphthyridin-4(7H)-one | yield 95% | C[C@H]1[C@H](CNCC1)N1C=CC(C2=CN=C3C(=C12)C=CN3COCC[Si](C)(C)C)=O | C22H32N4O2Si
